US07553969B1
(5) Synthesis of 2-[2-(3-tert-butyl-4-hydroxyphenyl)-1-(3-methyl-2-methylaminobutyrylamino)ethyl]-6-methyl-4-pyrimidinone
A mixture of 2-(1-(2-(benzyloxycarbonylmethylamino)-3-methyl-butyrylamino)-2-(3-tert-butyl-4-hydroxyphenyl)ethyl)-6-methyl-4-pyrimidinone (0.71 g, 1.294 mmol), 20% palladium hydroxide/carbon (0.15 g) and methanol (20 ml) was stirred in a hydrogen atmosphere for 4 hours. The reaction mixture was filtered and the filtrate was concentrated under reduced pressure; the thus obtained residue was subjected to silica gel column chromatography (developing solvent: methylene chloride:methanol=15:1), giving two diastereoisomers A and B of the titled compound, A (296 mg, 38%) being eluted first and then B (77 mg, 9.4%). (A)

reactant | 2-(1-(2-(benzyloxycarbonylmethylamino)-3-methyl-butyrylamino)-2-(3-tert-butyl-4-hydroxyphenyl)ethyl)-6-methyl-4-pyrimidinone | 1.294 mmol, 0.71 g | C(C1=CC=CC=C1)OC(=O)CNC(C(=O)NC(CC1=CC(=C(C=C1)O)C(C)(C)C)C1=NC(=CC(N1)=O)C)C(C)C | C31H40N4O5
reactant | hydrogen | [H][H] | H2
catalyst | palladium hydroxide/carbon | 0.15 g | [OH-].[OH-].[Pd+2]
solvent | methanol | 20 ml | CO | CH4O
product | 2-[2-(3-tert-butyl-4-hydroxyphenyl)-1-(3-methyl-2-methylaminobutyrylamino)ethyl]-6-methyl-4-pyrimidinone | C(C)(C)(C)C=1C=C(C=CC1O)CC(NC(C(C(C)C)NC)=O)C1=NC(=CC(N1)=O)C | C23H34N4O3
